US08183275B2
Sodium hydride (384 mg, 16 mmol) was added to a solution of 2-{4-[2-(4-iodo-1H-imidazol-2-yl)ethyl]phenyl}pyridine (5 g, 13.3 mmol) in dimethylformamide (100 mL) at 0° C. After stirring at 0° C. for 1 hr, dimethylsulfamoyl chloride (2.15 mL, 20 mmol) was added. After stirring at rt overnight, the reaction mixture was poured into water and extracted with ethyl acetate. The extracts were washed with brine, dried (sodium sulfate) and concentrated to give a residue. Chromatography of the residue over silica gel eluting with 0-20% acetone methylene chloride afforded 4-iodo-N,N-dimethyl-2-[2-(4-pyridin-2-ylphenyl)ethyl]-1H-imidazole-1-sulfonamide.

reactant | Sodium hydride | 16 mmol, 384 mg | [H-].[Na+]
reactant | 2-{4-[2-(4-iodo-1H-imidazol-2-yl)ethyl]phenyl}pyridine | 13.3 mmol, 5 g | IC=1N=C(NC1)CCC1=CC=C(C=C1)C1=NC=CC=C1 | C16H14IN3
reactant | dimethylsulfamoyl chloride | 20 mmol, 2.15 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | water | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | acetone methylene chloride | C(Cl)Cl.CC(=O)C
product | 4-iodo-N,N-dimethyl-2-[2-(4-pyridin-2-ylphenyl)ethyl]-1H-imidazole-1-sulfonamide | IC=1N=C(N(C1)S(=O)(=O)N(C)C)CCC1=CC=C(C=C1)C1=NC=CC=C1 | C18H19IN4O2S
